US05633099
To a mixed solution of neopentyl alcohol (500 ml, 5.7 mol) and dimethyl carbonate (2070 g, 23.0 mol), a 28% sodium methoxide/methanol solution (11 g) was added and the mixture was heated to 100° C. to remove the methanol by evaporation for 6 hours. After allowing the mixture to cool to room temperature, an aqueous solution of ammonium chloride was added to the mixture and the mixture was shaken to remove the sodium methoxide. The organic layer was washed with water, dried and distilled to give methyl neopentyl carbonate as a colorless liquid (450 g, yield 55%). The chemical structure of the produced compound was determined based on the IR and NMR absorbance spectra shown in FIG. 1 and FIG. 2 respectively and the mass spectrometry spectrum (M/e=146).

reactant | neopentyl alcohol | 5.7 mol, 500 ml | C(C(C)(C)C)O | C5H12O
reactant | dimethyl carbonate | 23.0 mol, 2070 g | C(OC)(OC)=O | C3H6O3
catalyst | sodium methoxide methanol | 11 g | C[O-].[Na+].CO
product | methyl neopentyl carbonate | 450 g, yield 55% | C(OC)(OCC(C)(C)C)=O | C7H14O3
